US07223776B2
48.d) tert-Butyl [4-(6-methoxy-quinolin-4-yloxymethyl)-cyclohexyl]carbamate
NaH dispersion (55% in mineral oil, 88 mg, 2 mmol) was added to a suspension of 6-methoxy-4-hydroxyquinoline (350 mg, 2 mmol) in DMF (4 ml) and stirred at room temperature until a solution formed. trans-Methanesulphonic acid 4-tert-butoxycarbonylaminocyclohexylmethyl ester (635 mg, 2 mmol) was added and the reaction mixture was stirred overnight at 80° C. Water was added to the mixture and extraction was carried out with ethyl acetate. Organic extracts washed with water, dried over Na2SO4 and concentrated. The crude product was purified by chromatography on silica gel (DCM/MeOH 9:1).

reactant | NaH | [H-].[Na+]
reactant | 6-methoxy-4-hydroxyquinoline | 2 mmol, 350 mg | COC=1C=C2C(=CC=NC2=CC1)O | C10H9NO2
reactant | trans-Methanesulphonic acid 4-tert-butoxycarbonylaminocyclohexylmethyl ester | 2 mmol, 635 mg | C(C)(C)(C)OC(=O)N[C@@H]1CC[C@H](CC1)COS(=O)(=O)C | C13H25NO5S
reactant | Water | O | H2O
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-Butyl [4-(6-methoxy-quinolin-4-yloxymethyl)-cyclohexyl]carbamate | COC=1C=C2C(=CC=NC2=CC1)OCC1CCC(CC1)NC(OC(C)(C)C)=O | C22H30N2O4
